US04562185
14.7 g of dimethyl 3,4-dichlorophenylhydroxymalonate were dissolved in 100 ml of methanol, and methylamine was passed in for 1 hour at 60° C. The mixture was evaporated down completely and the crystalline residue was recrystallized from 100 ml of ethanol. 12 g of 3,4-dichlorophenylhydroxymalonic acid dimethylamide (m.p.=158°-60° C.) were obtained.

reactant | dimethyl 3,4-dichlorophenylhydroxymalonate | 14.7 g | ClC=1C=C(C=CC1Cl)C(C(=O)OC)(C(=O)OC)O | C11H10Cl2O5
reactant | methylamine | CN | CH5N
reactant | methanol | 100 ml | CO | CH4O
product | 3,4-dichlorophenylhydroxymalonic acid dimethylamide | 12 g | CN(C(C(C(=O)O)(O)C1=CC(=C(C=C1)Cl)Cl)=O)C | C11H11Cl2NO4
